US06777409B2
42 mg of 6-[4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]-4-methyl-2,3-benzoxazin-1-one is dissolved in 1 ml of acetic acid and 1 ml of tetrahydrofuran b, mixed with 22.5 mg of iron powder and stirred for 16 hours at room temperature. It is suctioned off on diatomaceous earth, concentrated by evaporation, the residue is taken up in ethyl acetate and washed with a saturated sodium hydrogen carbon solution. After chromatography on silica gel with hexane/ethyl acetate (1.5+1) and recrystallization from diisopropyl ether, 10 mg of 6-[4-(2-amino-5-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]-4-methyl-2,3-benzoxazin-1-one is obtained, flash point 208° C.

reactant | 6-[4-(5-fluoro-2-nitrophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]-4-methyl-2,3-benzoxazin-1-one | 42 mg | FC=1C=CC(=C(C1)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)(C(F)(F)F)O)(C)C)[N+](=O)[O-] | C22H19F4N3O6
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 22.5 mg | [Fe] | Fe
product | 6-[4-(2-amino-5-fluorophenyl)-2-hydroxy-4-methyl-2-trifluoromethylvaleroylamino]-4-methyl-2,3-benzoxazin-1-one | 10 mg | NC1=C(C=C(C=C1)F)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)(C(F)(F)F)O)(C)C | C22H21F4N3O4
